US07166598B2
N,O-Dimethylhydroxylamine hydrochloride (5.37 g) was added to a mixture of 3-methoxy-4-(trifluoromethyl)benzoic acid (11.0 g), 1-hydroxybenzotriazole (6.76 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (9.59 g) and N,N-diisopropylethylamine (9.6 ml) in dichloromethane (200 ml), and the whole was stirred at room temperature for 18 hours. Saturated aqueous sodium hydrogen carbonate solution was added to the mixture and the organic layer was separated, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with 25% of ethyl acetate in hexane as an eluent to give 3-methoxy-N-methoxy-N-methyl-4-(trifluoromethyl)-benzamide (12.0 g) as a colorless oil.

reactant | N,O-Dimethylhydroxylamine hydrochloride | 5.37 g | Cl.CNOC
reactant | 3-methoxy-4-(trifluoromethyl)benzoic acid | 11.0 g | COC=1C=C(C(=O)O)C=CC1C(F)(F)F | C9H7F3O3
reactant | 1-hydroxybenzotriazole | 6.76 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 9.59 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 9.6 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-methoxy-N-methoxy-N-methyl-4-(trifluoromethyl)-benzamide | 12.0 g | COC=1C=C(C(=O)N(C)OC)C=CC1C(F)(F)F | C11H12F3NO3
